US08486970B2
A mixture of 660 mg of tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1H-pyrrole-3-carboxylate, 194 mg of hydrazine monohydrate, and 19 ml of ethanol was stirred at 70° C. for 12 hours. The reaction solution was left to be cooled and the insoluble material was then separated by filtration. The filtrate was concentrated under reduced pressure to obtain 430 mg of tert-butyl 1-(2-aminoethyl)-1H-pyrrole-3-carboxylate as a yellow oily substance.

reactant | tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1H-pyrrole-3-carboxylate | 660 mg | O=C1N(C(C2=CC=CC=C12)=O)CCN1C=C(C=C1)C(=O)OC(C)(C)C | C19H20N2O4
reactant | hydrazine monohydrate | 194 mg | O.NN
solvent | ethanol | 19 ml | C(C)O | C2H6O
product | tert-butyl 1-(2-aminoethyl)-1H-pyrrole-3-carboxylate | 430 mg | NCCN1C=C(C=C1)C(=O)OC(C)(C)C | C11H18N2O2
